US09227970B2
A mixture of 4-(6-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)morpholine (200 mg, 706 μmol), tert-butyl carbamate (99.3 mg, 848 μmol) and cesium carbonate (322 mg, 989 μmol) was purged several times with argon, then tris(dibenzylideneacetone)dipalladium(0) (12.9 mg, 14.1 μmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (16.3 mg, 28.3 μmol) were added and the mixture was purged with argon again, the vessel was then capped. The resulting mixture was refluxed for 20 hours. The mixture was evaporated to dryness under reduced pressure. Final purification by flash chromatography (20 g silicagel column using heptane/ethyl acetate 70-100% as eluent) afforded (2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-carbamic acid tert-butyl ester (46 mg, 20.4%) as yellow solid. Mp.: 166° C. MS: m/z=320.0 (M+H+).

reactant | 4-(6-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)morpholine | 706 μmol, 200 mg | BrC=1C=CC=2N(C1)N=C(N2)N2CCOCC2 | C10H11BrN4O
reactant | tert-butyl carbamate | 848 μmol, 99.3 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 989 μmol, 322 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 28.3 μmol, 16.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 14.1 μmol, 12.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-carbamic acid tert-butyl ester | 46 mg, 20.4% | C(C)(C)(C)OC(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O | C15H21N5O3
